US08026257B2
(±)-1-(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate.
(±)-1-(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)ethanol (240 mg, 1.01 mmol) was dissolved in methylene chloride (5 mL), cooled to 0° C. and treated with 1,8-diazabicyclo(5.4.0)undec-7-ene (31 μL, 0.2 mmol). The reaction was stirred for 10 min and treated with trichloroacetonitrile (1 mL, 10.1 mmol) dropwise over 10 min. The ice bath was removed and the reaction stirred at room temperature for 1 h and concentrated to give a dark brown solid. The crude product was treated with diethyl ether and stirred vigorously for 10 min. The resulting mixture was filtered through a pad of cotton and the ethereal concentrated to afford 365 mg (94%) as an oil. 1H-NMR (CDCl3, 300 MHz) δ 8.33 (s, 1H), 7.89 (s, 1H), 7.48 (m, 1H), 7.29 (m, 1H), 6.59 (q, J=6.6 Hz, 1H), 3.86-3.94 (m, 1H), 1.77 (d, J=6.6 Hz, 1H), 1.30-1.35 (m, 2H), 1.10-1.20 (m, 2H).

reactant | (±)-1-(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)ethanol | 1.01 mmol, 240 mg | ClC1=CC2=CN(N=C2C(=C1)C(C)O)C1CC1 | C12H13ClN2O
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 0.2 mmol, 31 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trichloroacetonitrile | 10.1 mmol, 1 mL | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | ClC(C(OC(C)C1=CC(=CC2=CN(N=C12)C1CC1)Cl)=N)(Cl)Cl | C14H13Cl4N3O
